US05171355
A solution of 6.03 g (0.05 mol) of 2,2-dimethylpropionyl chloride in 25 ml of THF was added dropwise to a solution of 7.65 g (0.05 mol) of 2-trifluoromethyl-2-methylpyrrolidine in 15 ml of THF, to which 5.6 g (0.055 mol) of triethylamine had been added. The course of the reaction is exothermic. The dropwise addition was effected slowly enough that the temperature did not rise to above +35° C. Stirring was continued for one hour at room temperature, and the mixture was then poured into 200 ml of ice-water, the pH was adjusted to 4-5 using dilute hydrochloric acid, and the mixture was extracted twice using 60 ml portions of dichloromethane. The combined organic phases were dried over magnesium sulphate and filtered, and the solvent was stripped off under a water pump vacuum. The oil which remained was chromatographed over a short silica gel column (mobile phase toluene/ ethyl acetate 1:1). After the mobile phase had been removed, 9.12 g (77% yield of theory) of N-pivaloyl-2-trifluoromethyl-2-methylpyrrolidine are obtained as a pale yellow oil having a refractive index of nD20 : 1,4615 (GC purity: 97.7%).

reactant | 2,2-dimethylpropionyl chloride | 0.05 mol, 6.03 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-trifluoromethyl-2-methylpyrrolidine | 0.05 mol, 7.65 g | FC(C1(NCCC1)C)(F)F | C6H10F3N
reactant | triethylamine | 0.055 mol, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-pivaloyl-2-trifluoromethyl-2-methylpyrrolidine | 9.12 g, 77% yield | C(C(C)(C)C)(=O)N1C(CCC1)(C)C(F)(F)F | C11H18F3NO
